### PR TITLE
new Quotient

### PR DESCRIPTION
**Pull request by WenrongZou**
depends on: #165

### CODE REVIEW

File: Game/Levels/Quotient/L06.lean [hunk 1]
```diff
@@ -0,0 +1,23 @@
...
+import Game.Levels.Quotient.L03
+
+World "Quotient"
+Level 6
+
+noncomputable section
+
+Statement isoQuotientEquivNat :
+    Quotient (isoSetoid) ≃ ℕ := by
+  apply Equiv.ofBijective (Quotient.lift Finset.card (fun _ _ h ↦ card_eq_iff_equiv.mpr h))
```
Comment (TentativeConvert) [inline Game/Levels/Quotient/L06.lean]: I was thinking of "the set of all finite sets modulo cardinality" for this planet rather than "the set of all finite subsets of R modulo cardinality". 

I thought we had such a "set" called Fintype, and that "Fin n : Fintype", but I just checked and found that "Fin n : Type". Fintype appears rather to be an attribute.

Have you thought about this, or did you simply misunderstand which statement I had in mind? If you have already thought about it, and if subsets of R are much easier to work with here, then please leave it as is. If you haven't thought about it, could you give it a try?

File: Game/Levels/Quotient/L06.lean [hunk 2]
```diff
@@ -0,0 +1,23 @@
...
+  constructor
+  · intro x y h
+    induction x using Quotient.ind
+    induction y using Quotient.ind
+    apply Quotient.sound
+    apply Fintype.card_eq.mp
+    simp
+    apply h
+  · intro n
+    obtain ⟨s, hs⟩ := Infinite.exists_subset_card_eq ℝ n
```
Comment (TentativeConvert) [inline Game/Levels/Quotient/L06.lean]: Couldn't we easily construct the required (sub)sets explicitly rather then pulling them out of Mathlib? E.g. "Fin n" if we are working with all finite sets, or something like "Icc 1 n : Finset N" typecast to "Finset R"? (Not too sure now that I'm writing whether we have such a typecast.)

File: Game/Levels/Quotient/L06.lean (hunk 1 above)
Comment (WenrongZou) [reply Game/Levels/Quotient/L06.lean]: Thanks for your feedback. I think `Fintype` is a class. In mathlib we have the following: 
```lean4
example {n : ℕ} : Fintype (Fin n) := by 
  infer_instance
````
Do you mean set of finite type modulo cardinality? I misunderstood the statement you had in mind. I will also try this way.

Comment (TentativeConvert) [reply Game/Levels/Quotient/L06.lean]: Yes, I meant to consider all "sets" (i.e. types) that are finite (i.e. of Fintype?), modulo the cardinality relation. I think that's the more natural setting, at least when you have set theory as your mathematical foundation. If it's reasonably straightforward to do this also in Lean, that would be great. But if it turns out to be significantly more difficult, then stick to subsets of R (or Q, or …).

Comment (WenrongZou) [reply Game/Levels/Quotient/L06.lean]: Thanks for your explanation. Is it the correct thing in your mind?
```lean4
import Game.Metadata
import Mathlib.CategoryTheory.ConcreteCategory.Bundled

open CategoryTheory

noncomputable section

/-- A "finite set": a type bundled with a `Fintype` instance on it. -/
abbrev FinType := Bundled Fintype

instance (A : FinType) : Fintype A := A.str

/-- Bundle a type with its `Fintype` instance. -/
abbrev FinType.of (α : Type) [Fintype α] : FinType := Bundled.of α

/-- `Fin n` is a `Type`, not a `FinType`; `FinType.of` turns it into one by
picking up the instance `Fintype (Fin n)`. -/
example (n : ℕ) : FinType := FinType.of (Fin n)

/-- Two finite types are equivalent when there is a bijection between them. -/
instance finTypeSetoid : Setoid FinType where
  r A B := Nonempty (A ≃ B)
  iseqv :=
    { refl _ := ⟨Equiv.refl _⟩
      symm := fun ⟨e⟩ => ⟨e.symm⟩
      trans := fun ⟨e₁⟩ ⟨e₂⟩ => ⟨e₁.trans e₂⟩ }

/-- The quotient of all finite types by "there is a bijection" is `ℕ`. -/
def finTypeQuotientEquivNat : Quotient finTypeSetoid ≃ ℕ := by
  apply Equiv.ofBijective
    (Quotient.lift (fun A : FinType => Fintype.card A)
      (fun _ _ h => Fintype.card_eq.mpr h))
  constructor
  · intro x y h
    induction x using Quotient.ind
    induction y using Quotient.ind
    apply Quotient.sound
    apply Fintype.card_eq.mp h
  · intro n
    use ⟦FinType.of (Fin n)⟧
    apply Fintype.card_fin n
```

Comment (TentativeConvert) [reply Game/Levels/Quotient/L06.lean]: Yes, this is the statement I wanted. 

I am not sure whether this is the best way to phrase it, though. I would have started with something along the lines of:

```
def FiniteSets : Type 2 :=
    { A : Type 1 // Finite A}
```

This is very close to what I would write in a lecture. But it does require universes, which will also require some explanations.

If you're confident your approach is more idiomatic, please go ahead with it. Just make sure to add sufficient explanations about "bundled types". Your abbreviations are good; I would just explicitely mention in the DefinitionDocs that these aren't in Mathlib.

Comment (WenrongZou) [reply Game/Levels/Quotient/L06.lean]: I think this statement is better. And I rewrote the whole planet using this definition.
